US07553837B2
Production of 6-nitro-2-hydroxymethyl-2,5,7,8-tetramethylchroman
9.5 g of 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman was dissolved in 80 ml of methylene chloride and 31.4 ml of a 1M boron tribromidemethylene chloride solution was added under a nitrogen gas flow at 0° C., followed by stirring at 0° C. for 3 hours. After the completion of the reaction, the reaction solution was poured into water and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the residue was subjected to silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 4.5 g of the objective product.

reactant | 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman | 9.5 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)COC)C | C15H21NO4
reactant | boron | 1M | [B] | B
reactant | water | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 6-nitro-2-hydroxymethyl-2,5,7,8-tetramethylchroman | 4.5 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)CO)C | C14H19NO4
